US04439617
A stream of chlorine gas was passed through a cooled solution of NaOH (17.28 g, 0.432 mole) in water (24 ml) containing 100 g of ice until 12.7 g (0.18 mole) of chlorine was absorbed into the solution. Solid (4,6-dimethoxy-1-naphthalenyl)ethanone [9.2 g, 0.04 mole, described by N. P. Buu-Hoi, J. Org. Chem., 21, 1257 (1956)], was added at 20°-22° C. to the chlorine solution. The mixture was stirred at 65° C. for one hr, cooled in an ice bath and treated with NaHSO3 (5 g) in water (20 ml). The mixture was made neutral by the addition of dilute HCl. The resulting precipitate was collected, washed well with water, dried over P2O5 and recrystallized from methanol to give 4,6-dimethoxy-1naphthalenecarboxylic acid (7.0 g); mp 227°-229° C.; NMR (DMSO-d6) δ3.85 (s, 3H), 4.0 (s, 3H), 7.7 (m, 5H); IR (white mineral oil) 2900, 1670 cm-1 ; UVλmax (MeOH) 339 nm (ε4,910), 328 (4500), 304 (8,180), 240 (40,100); Anal Calcd: C, 67.23% H, 5.21%; Found: C, 67.15% H, 5.23%.

reactant | chlorine | ClCl | Cl2
reactant | NaOH | 0.432 mole, 17.28 g | [OH-].[Na+]
reactant | chlorine | 0.18 mole, 12.7 g | ClCl | Cl2
reactant | (4,6-dimethoxy-1-naphthalenyl)ethanone | 0.04 mole, 9.2 g | COC1=CC=C(C2=CC=C(C=C12)OC)C(C)=O | C14H14O3
reactant | NaHSO3 | 5 g | OS(=O)[O-].[Na+]
reactant | HCl | Cl | ClH
solvent | water | 24 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 4,6-dimethoxy-1naphthalenecarboxylic acid | 7.0 g | COC1=CC=C(C2=CC=C(C=C12)OC)C(=O)O | C13H12O4
